US07227035B2
Synthesis of N-(2-Benzoyl-4-fluoro-phenyl)-4-methoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-fluoro-phenyl)-phenyl-methanone and 101 mg of 4-methoxy-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 3.64 (s, 3H), 6.62 (d, 2H, J=9.2 Hz), 7.02 (m, 1H), 7.25 (m, 1H), 7.31 (m, 2H), 7.37 (m, 2H), 7.48 (m, 2H), 7.56 (m, 1H), 7.79 (q, 1H, J=9.2 Hz, 4.8 Hz), 9.34 (s, 1H). MS: m/z 386.0 (M++1).

reactant | (2-amino-5-fluoro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)F)C(=O)C1=CC=CC=C1 | C13H10FNO
reactant | 4-methoxy-benzenesulfonyl chloride | 101 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(2-Benzoyl-4-fluoro-phenyl)-4-methoxy-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)F)NS(=O)(=O)C1=CC=C(C=C1)OC | C20H16FNO4S
